US07105680B1
4-bis(2-pyridylmethyl)aminomethyl-2-(2,5-dimethoxy phenyl)benzoxazole (F22) was prepared in a similar manner for the preparation of 4-bis(2-pyridylmethyl)aminomethyl-2-(5-methoxy-2-methoxymethoxyphenyl)benzoxazole (F18) using 4-bromomethyl-2-(2,5-dimethoxyphenyl)benzoxazole (F14) (522 mg, 1.5 mmol) instead of 4-bromomethyl-2-(5-methoxy-2-methoxymethoxyphenyl)benzoxazole (F12) in 91% (640 mg); 1H-NMR (400 MHz, CDCl3) δ3.88 (s, 4H), 3.95 (s, 6H), 4.23 (s, 2H), 7.01–7.07 (m, 2H), 7.13 (dd, 2H, J=8.0, 5.0 Hz), 7.34 (t, 1H, J=7.5 Hz), 7.49 (d, 1H, J=7.5 Hz), 7.57 (d, 1H, J=7.5 Hz), 7.64–7.68 (m, 3H), 7.80 (d, 2H, J=8.0 Hz), 8.52 (d, 2H, J=5.0 Hz).

reactant | 4-bis(2-pyridylmethyl)aminomethyl-2-(5-methoxy-2-methoxymethoxyphenyl)benzoxazole | N1=C(C=CC=C1)CN(CC1=NC=CC=C1)CC1=CC=CC2=C1N=C(O2)C2=C(C=CC(=C2)OC)OCOC | C29H28N4O4
reactant | 4-bromomethyl-2-(2,5-dimethoxyphenyl)benzoxazole | 1.5 mmol, 522 mg | BrCC1=CC=CC2=C1N=C(O2)C2=C(C=CC(=C2)OC)OC | C16H14BrNO3
product | 4-bis(2-pyridylmethyl)aminomethyl-2-(2,5-dimethoxy phenyl)benzoxazole | N1=C(C=CC=C1)CN(CC1=NC=CC=C1)CC1=CC=CC2=C1N=C(O2)C2=C(C=CC(=C2)OC)OC | C28H26N4O3
